US09226916B2
f) (3S,4R)-1-Benzyl-4-(4-chloro-phenyl)-pyrrolidine-3-carboxylic acid amide
A solution of (3S,4R)-1-benzyl-4-(4-chloro-phenyl)-pyrrolidine-3-carboxylic acid methyl ester (62.82 g, 190.5 mmol) and formamide (22.7 mL, 571.4 mmol) in DMF (75 mL) was heated to 100° C. Then sodium methylate solution (5.4 M in methanol, 17.6 mL, 95.2 mmol) was added dropwise over a period of 50 min. The solution was stirred for 3 h at 100° C. (after 1 h further formamide (11.4 mL, 285.7 mmol) was added). The reaction mixture was cooled to ambient temperature and the resulting suspension was separated between ethyl acetate (1500 mL) and water (1000 mL). The organic layers were washed with brine (500 mL), combined and dried over sodium sulfate. Concentration and trituration with tert-butylmethylether (500 mL) afforded the tittle compound (51.19 g, 85%) as white crystals. MS m/e: 315.2 and 317.3 [M+H]+).

reactant | (3S,4R)-1-benzyl-4-(4-chloro-phenyl)-pyrrolidine-3-carboxylic acid methyl ester | 190.5 mmol, 62.82 g | COC(=O)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)CC1=CC=CC=C1 | C19H20ClNO2
reactant | formamide | 571.4 mmol, 22.7 mL | C(=O)N | CH3NO
reactant | sodium methylate | 95.2 mmol, 5.4 M, 17.6 mL | C[O-].[Na+]
reactant | formamide | 285.7 mmol, 11.4 mL | C(=O)N | CH3NO
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | (3S,4R)-1-Benzyl-4-(4-chloro-phenyl)-pyrrolidine-3-carboxylic acid amide | 51.19 g, 85% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CC=C(C=C1)Cl)C(=O)N | C18H19ClN2O
